US08710077B2
a) 1-Allyl-4-(tert-butyl-dimethyl-silanyloxy)-cyclohexylamine
To a solution of 1.0 g (4.38 mmol) of 4-(tert-butyldimethylsilyloxy)cyclohexanone in 6.2 mL (43.8 mmol) of 7N ammonia in methanol, previously stirred for 15 min at room temperature, were added dropwise 3.5 mL (7.0 mmol) of a 2M solution of 2-allyl-4,4,5,5-tetramethyl-1,3,2-dioxa-borolane in methanol. The reaction mixture was stirred for 16 h at room temperature. The volatiles were removed in vacuo and the residue could be purified by silica gel chromatography using dichloromethane/methanol/NH3 aq. as eluent. Rt=1.19 min (Method C). Detected mass: 270.3 (M+H+).

reactant | 4-(tert-butyldimethylsilyloxy)cyclohexanone | 4.38 mmol, 1.0 g | [Si](C)(C)(C(C)(C)C)OC1CCC(CC1)=O | C12H24O2Si
reactant | ammonia | 43.8 mmol, 7N, 6.2 mL | N | H3N
reactant | 2-allyl-4,4,5,5-tetramethyl-1,3,2-dioxa-borolane | C(C=C)B1OC(C(O1)(C)C)(C)C | C9H17BO2
solvent | methanol | CO | CH4O
product | 1-Allyl-4-(tert-butyl-dimethyl-silanyloxy)-cyclohexylamine | C(C=C)C1(CCC(CC1)O[Si](C)(C)C(C)(C)C)N | C15H31NOSi
